US05556864
Following a procedure similar to that described in the first part of Preparation 3, 1.32 g of α-methylcinnamaldehyde, 4.47 g of 2-benzyloxybenzyltriphenylphosphonium chloride (prepared as described in Preparation 1) and 1.37 g of 1,8-diazabicyclo[5,4,0]-undec-7-ene were reacted in acetonitrile. The crude product thus obtained was purified as described in the first part of Preparation 3, to give 2.66 g (yield 90%) of 1-(2-benzyloxyphenyl)-3-methyl-4-phenylbutadiene as a colorless oil.

reactant | α-methylcinnamaldehyde | 1.32 g | CC(C=O)=CC1=CC=CC=C1 | C10H10O
reactant | 2-benzyloxybenzyltriphenylphosphonium chloride | 4.47 g | [Cl-].C(C1=CC=CC=C1)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | 1,8-diazabicyclo[5,4,0]-undec-7-ene | 1.37 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-benzyloxyphenyl)-3-methyl-4-phenylbutadiene | 2.66 g, yield 90% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC(=CC1=CC=CC=C1)C | C24H22O
